US05252732
17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(1-ethylindol-5-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a stirred solution of tri(1-ethylindol-5-yl)bismuthine (150 mg., 0.23 mmol.), prepared by procedures outlined in STEP 14A & B, in CH2Cl2 (3 ml) was added peracetic acid (0.063 mL., 0.3 mmol., 32% in acetic acid) followed in 15 minutes by 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (100 mg., 0.126 mmol.) and Cu(OAc)2 (20 mg., 0.11 mmol.). The reaction mixture was allowed to stir at room temperature for 3 days. The reaction was then quenched with saturated aqueous NaHCO3 and the mixture extracted 2× with CH2Cl2. The extracts were combined, dried with Na2SO4, filtered, and concentrated in vacuo to a brown oil. The product was isolated and purified by preparative TLC on silica gel (first with 2:1 hexane/acetone followed by 3% CH3OH in CH2Cl2) to give 60 mg of the title compound. MASS (FAB) M+Na 957. Partial 1H NMR (CDCl3, 200 MHz) δ:7.19 (d, J=10 Hz, 1H); 7.18 (d, J=3 Hz, 1H); 7.05 (d, J=4 Hz, 1H); 6.90 (dd, J=3 Hz, 10 Hz, 1H); 6.35 (d, J=4 Hz, 1H); 4.09 (q, J=6.7 Hz, 2H); 3.5 (s, 3H); 1.4 (t, J=6.7 Hz, 3H).

reactant | tri(1-ethylindol-5-yl)bismuthine | 0.23 mmol, 150 mg | C(C)N1C=CC2=CC(=CC=C12)[Bi](C=1C=C2C=CN(C2=CC1)CC)C=1C=C2C=CN(C2=CC1)CC
reactant | peracetic acid | 0.3 mmol, 0.063 mL | C(C)(=O)OO | C2H4O3
reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.126 mmol, 100 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 0.11 mmol, 20 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(1-ethylindol-5-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 60 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC=2C=C1C=CN(C1=CC2)CC)OC)C)C)O)=O | C53H78N2O12
